US07713994B2
(4E)-6-Iodo-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione (0.26 g, 0.80 mmol), 2-fluoro-6-(4-methyl-piperazin-1-yl)-pyridin-3-ylamine (contaminated with triethylammonium trifluoroacetate, approximately 0.80 mmol) were coupled in N,N-dimethylformamide (10 mL) with triethylamine (0.66 mL). The mixture is heated in a 100° C. oil bath for one hour. The reaction mixture is purified by reverse phase HPLC and then flash silica gel chromatography (methanol/chloroform) to give (4Z)-4-({[2-fluoro-6-(4-methylpiperazin-1-yl)pyridin-3-yl]amino}methylene)-6-iodoisoquinoline-1,3(2H,4H)-dione (0.20 g, 49%).

reactant | (4E)-6-Iodo-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione | 0.80 mmol, 0.26 g | IC=1C=C2\C(\C(NC(C2=CC1)=O)=O)=C/OC | C11H8INO3
reactant | 2-fluoro-6-(4-methyl-piperazin-1-yl)-pyridin-3-ylamine | approximately 0.80 mmol | FC1=NC(=CC=C1N)N1CCN(CC1)C | C10H15FN4
reactant | triethylamine | 0.66 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | (4Z)-4-({[2-fluoro-6-(4-methylpiperazin-1-yl)pyridin-3-yl]amino}methylene)-6-iodoisoquinoline-1,3(2H,4H)-dione | 0.20 g, 49% | FC1=NC(=CC=C1N\C=C\1/C(NC(C2=CC=C(C=C12)I)=O)=O)N1CCN(CC1)C | C20H19FIN5O2
